US07211668B2
N-{2-[5-(2-Nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester
The title compound was synthesized by the reaction of N-{2-[5-(2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester with (thymin-1-yl)-acetic acid as per the procedure of example 13. 1H NMR (400 MHz; DMSO-d6) δ 11.29 (s, 0.6H), 11.28 (s, 0.4H), 9.21 (brs, 0.6H), 9.10 (brs, 0.4H), 8.26–8.21 (m, 1H), 7.97–7.89 (m, 3H), 7.33 (d, 0.6H), 7.26 (d, 0.4H), 4.68 (s, 1.2H), 4.45 (s, 0.4H), 4.33 (s, 0.8H), 4.18 (q, 0.8H), 4.08 (q, 1.2H), 4.07 (s, 1.2H), 3.59 (t, 1.2H), 3.47–3.40 (m, 2H), 3.28 (t, 0.8H), 1.74 (s, 3H), 1.24 (t, 1.2H), 1.18 (t, 1.8H).

reactant | N-{2-[5-(2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C14H17N5O6S2
reactant | (thymin-1-yl)-acetic acid | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | N-{2-[5-(2-Nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester | C(C)OC(CN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C21H23N7O9S2
